US08071768B2
c. 4-piperidin-4-yl-quinazoline
A mixture of crude 4-quinazolin-4-yl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (4.58 g), as prepared in the previous step, DMSO (7.5 mL), and 10 M KOH (aq) (7.5 mL) was vigorously stirred at 100° C. for 12 h. After cooling to rt, the reaction was cautiously treated with 6 M HCl (18.4 mL) (gas evolution!) and water (19 mL), and the mixture with heavy precipitate was stirred at 100° C. for 10 min. The resulting amber translucent solution was allowed to cool to rt, made basic with 2.5 M NaOH (20 mL) and water (10 mL), shaken to dissolve the DMSO into the aqueous milieu, and extracted with DCM (2×75 mL). The organic layers were combined, dried (Na2SO4), and concentrated under reduced pressure to give the impure title compound as an amber translucent syrup (2.63 g, “100%” crude yield from 4-chloroquinazoline). 1H-NMR (300 MHz, CDCl3) δ 9.27 (s, 1H), 8.17 (dd, 1H), 8.06 (m, 1H), 7.89 (m, 1H), 7.65 (m, 1H), 3.75 (m, 1H), 3.45-3.35 (m, 2H), 3.04-2.92 (m, 2H), 2.1-1.8 (m, 5H). LC/MS (ESI): calcd mass 213.1, found 214.0 (MH)+.

reactant | 4-quinazolin-4-yl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 4.58 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC=CC=C12 | C20H25N3O4
reactant | KOH | 10 M, 7.5 mL | [OH-].[K+]
reactant | HCl | 6 M, 18.4 mL | Cl | ClH
reactant | NaOH | 2.5 M, 20 mL | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
solvent | water | 19 mL | O | H2O
solvent | DMSO | 7.5 mL | CS(=O)C | C2H6OS
product | 4-piperidin-4-yl-quinazoline | N1CCC(CC1)C1=NC=NC2=CC=CC=C12 | C13H15N3
